US07709471B2
Methylcyanoacetate (Aldrich; 20 g, 0.201 mol) was dissolved in THF (250 mL), to this was added DBU (75 mL, 0.505 mol) and ethyl bromide (40 mL, 0.606 mol). The reaction was stirred at 50° C. for 2 hours before being cooled and quenched with sat NH4Cl(aq). The organic layer was separated and the remaining aqueous was extracted with diethyl ether (2×100 mL), dried and solvent removed in vacuo to yield yellow oil. Purification was achieved via distillation at 70° C. at 0.5 mbar to afford methyl2-cyano-2-ethyl-butanoate as a clear oil (20 g, 0.129 mol) which was reduced with hydrogen under pressure using Raney nickel catalyst (2 g). The reaction mixture was filtered and solvent evaporated to the title compound as a slightly dark oil. (16 g, 50%).

reactant | Methylcyanoacetate | 0.201 mol, 20 g | COC(CC#N)=O | C4H5NO2
reactant | DBU | 0.505 mol, 75 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ethyl bromide | 0.606 mol, 40 mL | C(C)Br | C2H5Br
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | methyl2-cyano-2-ethyl-butanoate | 0.129 mol, 20 g | COC(C(CC)(CC)C#N)=O | C8H13NO2
